US07968563B2
3-Chloroperoxybenzoic acid (mCPBA) (32.7 g of 77% pure material, 146 mmol) was added over a period of five minutes to a solution of 2-chloromethyl-1-(2-methylpropyl)-1H-imidazo[4,5-c]quinoline (20.0 g, 73.1 mmol) in chloroform (500 mL); the reaction mixture was stirred at ambient temperature for one hour. Ammonium hydroxide (200 mL) was added, and then p-toluenesulfonyl chloride (16.7 g, 87.7 mmol) was added in portions over a period of 10 minutes. The reaction mixture was stirred at ambient temperature for one hour, and then water (200 mL) was added. The aqueous layer was separated and extracted with dichloromethane (2×200 mL). The combined organic fractions were dried over magnesium sulfate, filtered, and concentrated under reduced pressure to provide 32 g of crude product as a tan solid. The crude product was dissolved in dichloromethane (50 mL), and the resulting solution was divided into two portions. Each portion was purified by column chromatography using a HORIZON HPFC system (an automated, modular high-performance flash purification product available from Biotage, Inc, Charlottesville, Va., USA) using a FLASH 65I silica cartridge (also available from Biotage, Inc.) (eluting with ethyl acetate:methanol in a gradient from 98:2 to 85:15) to provide 11.24 g of 2-chloromethyl-1-(2-methylpropyl)-1H-imidazo[4,5-c]quinolin-4-amine as a tan solid.

reactant | 3-Chloroperoxybenzoic acid | 146 mmol, 32.7 g | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
reactant | 2-chloromethyl-1-(2-methylpropyl)-1H-imidazo[4,5-c]quinoline | 73.1 mmol, 20.0 g | ClCC=1N(C2=C(C=NC=3C=CC=CC23)N1)CC(C)C | C15H16ClN3
reactant | Ammonium hydroxide | 200 mL | [OH-].[NH4+]
reactant | p-toluenesulfonyl chloride | 87.7 mmol, 16.7 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
solvent | chloroform | 500 mL | C(Cl)(Cl)Cl | CHCl3
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
solvent | water | 200 mL | O | H2O
product | 2-chloromethyl-1-(2-methylpropyl)-1H-imidazo[4,5-c]quinolin-4-amine | 11.24 g | ClCC=1N(C2=C(C(=NC=3C=CC=CC23)N)N1)CC(C)C | C15H17ClN4
